US08030500B2
5-(3-(3-Amino-1-(2,6-dimethylpyridin-4-yl)-4-fluoro-1H-isoindol-1 yl)phenyl)nicotinonitrile
The title compound was synthesized as described for Example 12 in 53% yield starting from 1-(3-bromophenyl)-1-(2,6-dimethylpyridin-4-yl)-4-fluoro-1H-isoindol-3-amine (104.8 mg, 0.26 mmol), 5-cyanopyridin-3-ylboronic acid (37.8 mg, 0.26 mmol), PdCl2(dppf)-CH2Cl2 adduct (20.9 mg, 0.03 mmol), and K2CO3 (aq) (0.38 mL, 0.77 mmol).

reactant | 1-(3-bromophenyl)-1-(2,6-dimethylpyridin-4-yl)-4-fluoro-1H-isoindol-3-amine | 0.26 mmol, 104.8 mg | BrC=1C=C(C=CC1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=NC(=C1)C)C | C21H17BrFN3
reactant | 5-cyanopyridin-3-ylboronic acid | 0.26 mmol, 37.8 mg | C(#N)C=1C=C(C=NC1)B(O)O | C6H5BN2O2
reactant | K2CO3 | 0.77 mmol, 0.38 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | PdCl2(dppf) CH2Cl2 | 0.03 mmol, 20.9 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 5-(3-(3-Amino-1-(2,6-dimethylpyridin-4-yl)-4-fluoro-1H-isoindol-1 yl)phenyl)nicotinonitrile | 53% yield | NC1=NC(C2=CC=CC(=C12)F)(C1=CC(=NC(=C1)C)C)C=1C=C(C=CC1)C=1C=NC=C(C#N)C1 | C27H20FN5
